US06495576B2
N-[1-(1H-1,2,3-Benzotriazol-1yl)-2,2-dimethylpropyl]-4- fluoro-3-(trifluoromethyl)benzamide
A suspension of 4-fluoro-3-(trifluoromethyl)benzamide, pivaldehyde, benzotriazole, and p-toluenesulfonic acid was processed as in Example 1C to provide the title compound.

reactant | 4-fluoro-3-(trifluoromethyl)benzamide | FC1=C(C=C(C(=O)N)C=C1)C(F)(F)F | C8H5F4NO
reactant | pivaldehyde | CC(C)(C)C=O | C5H10O
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[1-(1H-1,2,3-Benzotriazol-1yl)-2,2-dimethylpropyl]-4- fluoro-3-(trifluoromethyl)benzamide | N1(N=NC2=C1C=CC=C2)C(C(C)(C)C)NC(C2=CC(=C(C=C2)F)C(F)(F)F)=O | C19H18F4N4O
